US09315521B2
3-bromo-5-chloropyridine (25 g, 130 mmol) in THF (50 mL) was added slowly to a solution of LDA (140 mmol) in THF (250 mL) at −78° C. over 10 minutes. After stirring for 30 minutes, ethyl chloroformate (26 mL, 260 mmol) in THF (30 mL) was added in portions over 5 minutes. After 10 more minutes, the reaction mixture was poured into cold 10% aqueous NaHCO3 (500 mL). The mixture was extracted with ethyl acetate (2×250 mL). The organic layer was dried over MgSO4 and evaporated. The crude solid was filtered through a silica pad with hexane (500 mL). The filtrate was evaporated to provide pure ethyl 3-bromo-5-chloropyridine-4-carboxylate (28 g, 80% yield).

reactant | 3-bromo-5-chloropyridine | 130 mmol, 25 g | BrC=1C=NC=C(C1)Cl | C5H3BrClN
reactant | LDA | 140 mmol | [Li+].CC(C)[N-]C(C)C
reactant | ethyl chloroformate | 260 mmol, 26 mL | ClC(=O)OCC | C3H5ClO2
reactant | NaHCO3 | 500 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | ethyl 3-bromo-5-chloropyridine-4-carboxylate | 28 g, 80% yield | BrC=1C=NC=C(C1C(=O)OCC)Cl | C8H7BrClNO2
